US05204346
Potassium iodide (0.1 g) and 1,5-dibromopentane (4.6 g) were added to a suspension of 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (2.88 g) and 60% sodium hydride [0.4 g) in N,N-dimethylformamide (40 ml). After being stirred for 3 hours at room temperature, the mixture was poured into cold water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was purified by column chromatography on silica gel (100 g) using chloroform as an eluent to afford 3-[2-(5-bromopentyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (3.48 g).

reactant | 1,5-dibromopentane | 4.6 g | BrCCCCCBr | C5H10Br2
reactant | 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 2.88 g | O=C1NN=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
reactant | sodium hydride | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | Potassium iodide | 0.1 g | [I-].[K+]
product | 3-[2-(5-bromopentyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 3.48 g | BrCCCCCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C22H21BrN4O
